US07285563B2
2-(4-Hydroxybut-1-ynyl)benzaldehyde
To a solution of 2-bromobenzaldehyde (10 g, 54 mmol) in anhydrous N,N-dimethylformamide (150 ml) was added 3-butyn-1-ol (6.13 ml, 81 mmol) and triethylamine (11.3 ml, 81 mmol), followed by copper (I) iodide (490 mg, 5.4 mmol) and Pd(PPh3)2Cl2 (1.9 g, 2.7 mmol), and the mixture degassed three times and stirred at room temperature overnight. The mixture was poured into water (600 ml) and extracted with EtOAc (3×150 ml); the combined EtOAc layers were washed with water (2×250 ml), sat NaCl (100 ml), then dried over Na2SO4, filtered and evaporated. The residue was purified by column chromatography on silica eluting with 50% Et2O in isohexanes to give the title compound (8.5 g, 90%) as an orange oil.

reactant | 2-bromobenzaldehyde | 54 mmol, 10 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 3-butyn-1-ol | 81 mmol, 6.13 ml | C(CC#C)O | C4H6O
reactant | triethylamine | 81 mmol, 11.3 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 5.4 mmol, 490 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 2.7 mmol, 1.9 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-Hydroxybut-1-ynyl)benzaldehyde | 8.5 g, 90% | OCCC#CC1=C(C=O)C=CC=C1 | C11H10O2
